US06436912B1
Synthesis of Trt-Gly-Gly-Phe-Gly-OH
Trt-Gly-Gly-Phe-Gly-OBzl (670 mg), 10% Pd-C (100 mg), and ammonium formate (200 mg) were added to DMF (5 ml) and stirred for three hours. The reaction mixture was filtered, the filtrate was evaporated to dryness under reduced pressure, and then the residue was purified by silica gel column chromatography (eluent: dichloromethane:methanol=8: 1 solution) to obtain the title compound (300 mg).

reactant | Trt-Gly-Gly-Phe-Gly-OBzl | 670 mg | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OCC1=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H40N4O5
reactant | ammonium formate | 200 mg | C(=O)[O-].[NH4+]
catalyst | Pd-C | 100 mg | [Pd] | Pd
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Trt-Gly-Gly-Phe-Gly-OH | 300 mg | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H34N4O5
